### PR TITLE
[IK]: IsCompletelyMultiplicative.isMultiplicative and moebius_sq_eq, #1276 and #1289

### LINKED ISSUE #1276: [IK]: prove `moebius_sq_eq`
## Description

Prove `moebius_sq_eq`

## Blueprint

[Link](https://alexkontorovich.github.io/PrimeNumberTheoremAnd/blueprint/IK-chapter.html#moebius_sq_eq)

## Zulip

TBA

### PR DESCRIPTION
**Pull request by prestontranbarger**
closes #1276, #1289

additional useful auxiliary lemmas

### CODE REVIEW

**Comment by prestontranbarger** [comment]
closes #1289

File: PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean [hunk 1]
```diff
@@ -765,19 +765,183 @@ lemma zeta_alt (s : ℂ) (hs : 1 < s.re) :
...
+    exact Nat.dvd_antisymm
+      ((hmn.coprime_dvd_left (Nat.mem_divisors.mp ha1).1
+        |>.coprime_dvd_right (Nat.mem_divisors.mp hb2).1).dvd_of_dvd_mul_right <| by
+          simpa [hab] using dvd_mul_right a.1 a.2)
+      ((hmn.coprime_dvd_left (Nat.mem_divisors.mp hb1).1
+        |>.coprime_dvd_right (Nat.mem_divisors.mp ha2).1).dvd_of_dvd_mul_right <| by
+          simp only [hab, dvd_mul_right b.1 b.2])
+  refine Prod.ext h1 ?_
+  simp only [h1] at hab
+  exact Nat.eq_of_mul_eq_mul_left (Nat.pos_of_mem_divisors hb1) hab
```
Comment (AlexKontorovich) [inline PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean]: Quote this from PR #36495 in mathlib

Comment (prestontranbarger) [reply PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean]: fixed in latest commit

**Review by AlexKontorovich — APPROVED** [review]
Thanks!

File: PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean [hunk 2]
```diff
@@ -765,20 +765,176 @@ lemma zeta_alt (s : ℂ) (hs : 1 < s.re) :
...
-  "moebius_sq_eq"
-  (title := "moebius sq eq")
-  (statement := /-- I-K (1.33): $\mu^2(n) = \sum_{d^2|n} \mu(d)$. -/)
+  "divisors_mul_injective"
+  (title := "divisors-mul-injective")
+  (statement := /--
+    Let $m$ and $n$ be coprime natural numbers. The function $(a,b) \mapsto ab$ is injective on the
+    product of the divisors of $m$ and $n$.
+
+    Upstreamed to mathlib via PR #36495.
```
Comment (AlexKontorovich) [inline PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean:806]:
```suggestion
    Upstreamed to mathlib via PR \#36495.
```
